US05716624
Preparation of 4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]toluene
Following the basic procedure of Example 11(d), by reacting 1.2 g (5 mmol) of α-ethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol with 1.1 g (5 mmol) of 4-iodotoluene, 1.49 g (45%) of the expected compound was recovered, after chromatography on a silica column eluted with dichloromethane, in the form of a brown oil.

reactant | α-ethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol | 5 mmol, 1.2 g | C(#C)C(O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C17H22O
reactant | 4-iodotoluene | 5 mmol, 1.1 g | IC1=CC=C(C=C1)C | C7H7I
product | 4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]toluene | 1.49 g, 45% | OC(C#CC1=CC=C(C=C1)C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C24H28O
